US07186742B2
2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[1-(2-hydroxy-ethyl)-5-methyl-1H-pyrazol-3-yl]-benzamide
A mixture of 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(5-methyl-1H-pyrazol-3-yl)-benzamide (5.0 g, 13.8 mmol) and cesium carbonate (9.0 g, 27.7 mmol) in dimethylsulfoxide (50 mL) was stirred at room temperature for 10 minutes. Bromoethanol (1.9 g, 15.2 mmol) was added and the resulting mixture was stirred at 80° C. for 12 h. The mixture was cooled to room temperature and filtered. The filtrate was diluted with ethyl acetate (300 mL), washed with water and brine, dried, filtered and concentrated in vacuo. The residue was triturated with dichloromethane-ethyl acetate-diethyl ether (1:1:1, 100 mL) and washed with ethyl acetate to afford the title compound (3.3 g). LCMS (m/z) 406.1 M+1.

reactant | 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(5-methyl-1H-pyrazol-3-yl)-benzamide | 13.8 mmol, 5.0 g | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NNC(=C1)C | C19H24ClN3O2
reactant | cesium carbonate | 27.7 mmol, 9.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromoethanol | 15.2 mmol, 1.9 g | BrC(C)O | C2H5BrO
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[1-(2-hydroxy-ethyl)-5-methyl-1H-pyrazol-3-yl]-benzamide | 3.3 g | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NN(C(=C1)C)CCO | C21H28ClN3O3
